US08048878B2
Synthesis of 1-[(2R*,6S*)-2-(3-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one
Diethyl cyanophosphonate (1.78 mL) was added to a solution of (2R*,6S*)-2-(3-fluorophenyl)-6-vinylpiperidine (748 mg), vinylacetic acid (0.96 mL), and triethylamine (3.1 mL) in DMF (15 mL) at room temperature, and the reaction solution was stirred at room temperature for 27 hours. Ethyl acetate and 1 N hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with saturated sodium bicarbonate water and brine, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 587 mg of the title compound. The property values of the compound are as follows.

reactant | Diethyl cyanophosphonate | 1.78 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | (2R*,6S*)-2-(3-fluorophenyl)-6-vinylpiperidine | 748 mg | FC=1C=C(C=CC1)[C@@H]1N[C@@H](CCC1)C=C | C13H16FN
reactant | vinylacetic acid | 0.96 mL | C(=C)CC(=O)O | C4H6O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 3.1 mL | C(C)N(CC)CC | C6H15N
product | 1-[(2R*,6S*)-2-(3-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one | 587 mg | FC=1C=C(C=CC1)[C@@H]1N([C@@H](CCC1)C=C)C(CC=C)=O | C17H20FNO
